US06887889B2
To a stirred solution of (3,4-difluorophenyl)-(2-oxo-ethyl)-carbamic acid-tert-butyl ester (1.23 g, 4.3 mmol) in MeOH (35 mL) under Ar at room temperature was added a solution of C-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl]-methylamine (1.49 g, 4.5 mmol, 1.05 eq.) in MeOH (10 mL). The mixture was stirred at room temperature for 5 h then NaBH4 (0.255 g, 6.75 mmol, 1.5 eq) was added and the resulting mixture was stirred for a further 1 h and then was quenched by the addition of 1N aqueous NaOH (40 mL). The mixture was extracted twice with Et2O (2×50 mL) and the combined organic extracts were washed with saturated brine (100 mL) and dried over Na2SO4. Filtration and concentration of the filtrate by rotary evaporation gave the crude product which was purified by flash column chromatography by eluting with 12% EtOAc/hexanes to give (3,4-difluoro-phenyl)-(2-{[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-amino}-ethyl)-carbamic acid tert-butyl ester (2.03 g, 76%) as a pale oil. MS (ESI): 585.9/587.0 (M+H).

reactant | (3,4-difluorophenyl)-(2-oxo-ethyl)-carbamic acid-tert-butyl ester | 4.3 mmol, 1.23 g | C(C)(C)(C)OC(N(CC=O)C1=CC(=C(C=C1)F)F)=O | C13H15F2NO3
reactant | C-[4-(4-iodo-phenyl)-1-methyl-piperidin-4-yl]-methylamine | 4.5 mmol, 1.49 g, 1.05 eq. | IC1=CC=C(C=C1)C1(CCN(CC1)C)CN | C13H19IN2
reactant | NaBH4 | 6.75 mmol, 0.255 g, 1.5 eq | [BH4-].[Na+]
solvent | MeOH | 35 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | (3,4-difluoro-phenyl)-(2-{[4-(4-iodo-phenyl)-1-methyl-piperidin-4-ylmethyl]-amino}-ethyl)-carbamic acid tert-butyl ester | 2.03 g, 76% | C(C)(C)(C)OC(N(CCNCC1(CCN(CC1)C)C1=CC=C(C=C1)I)C1=CC(=C(C=C1)F)F)=O | C26H34F2IN3O2
